US04366160
Preparation of 2-([{2-[(2,6-difluorophenyl)imino]-1-imidazolidinyl}oxy]methyl)-pyridine 1-oxide dihydrochloride
From 2-[(2,6-difluorophenyl)imino]-1-hydroxy-imidazolidine and 2-chloromethyl-pyridine N-oxide there is obtained, in analogy to the details in Example 1,2-([{2-[(2,6-difluorophenyl)imino]-1-imidazolidinyl}oxy]methyl)-pyridine 1-oxide dihydrochloride of melting point 188°-189° (acetone/hydrogen chloride in dioxane).

reactant | 2-[(2,6-difluorophenyl)imino]-1-hydroxy-imidazolidine | FC1=C(C(=CC=C1)F)N=C1N(CCN1)O | C9H9F2N3O
reactant | 2-chloromethyl-pyridine N-oxide | ClCC1=[N+](C=CC=C1)[O-] | C6H6ClNO
reactant | acetone hydrogen chloride | CC(=O)C.Cl
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-([{2-[(2,6-difluorophenyl)imino]-1-imidazolidinyl}oxy]methyl)-pyridine 1-oxide dihydrochloride | Cl.Cl.FC1=C(C(=CC=C1)F)N=C1N(CCN1)OCC1=[N+](C=CC=C1)[O-] | InChI=1S/C15H14F2N4O2.2ClH/c16-12-5-3-6-13(17)14(12)19-15-18-7-9-21(15)23-10-11-4-1-2-8-20(11)22;;/h1-6,8H,7,9-10H2,(H,18,19);2*1H
